US07671056B2
3) 1-(5-fluoroquinolin-8-yl)piperidin-4-one
To a 5-L jacketed cylindrical reactor equipped with an impeller-style agitator, condenser, thermocouple, and vacuum/nitrogen inlet was charged 2-L, 15% toluene solution of 8-bromo-5-fluoroquinoline, 209 g of 1,4-Dioxa-8-azaspiro[4.5]decane. Meanwhile in a 500-mL Erlenmeyer flask, a suspension of 16.5 g (26.5 mmol)±-[1,1′-binaphthalene]-2,2′-diylbis[diphenyl-Phosphine, and 6.08 g (6.64 mmol) tris[μ-[(1,2-η:4,5-η)-(1E,4E)-1,5-diphenyl -1,4-pentadien-3-one]]dipalladium in 260 g of toluene was prepared. This freshly made suspension was charged into the 5-L reactor followed by a rinse of 170 g of toluene. 166 g sodium tert-butoxide was then charged into the reactor followed by a rinse with 430 g of toluene. The reactor was degassed by vacuum to less than 125 mmHg and then filled with nitrogen to atmosphere three times. The mixture was then heated to 50-60° C. and stirred for 1 h and then heat to 65-75° and stirred at this temperature for about 10 hours. The mixture was cooled to 40-50° C. and then quenched with 800 g of water. The lower aqueous layer was split off and the volume of the organic layer was reduced to about 1.5 L by vacuum distillation. To this residual was charged 2.28 kg of 20% sulfuric acid at 25-30° C. The mixture was stirred for an hour and was clarified by filtration and a bi-phase filtrate was obtained. The aqueous phase was split and retained. Toluene 870 g was added to the aqueous solution and the mixture was neutralized by slowly adding 770 g 50% sodium hydroxide solution. The lower aqueous layer was split off and extracted with 600 g of toluene. The organic layers were combined and the volume of the reaction was reduced to about 1 L by vacuum distillation. The residue was cooled to room temperature and 480 g of toluene was charged. The mixture was heated to 45-55° C. to form a clear solution, which was filtered through a celite/charcoal pad to remove palladium. The filtrate was concentrated by vacuum distillation to about 0.7 L and diluted with 620 g heptane, cooled to −15 to −5° C. to form a slurry. The solid was collected by filtration. The product was dried by air flow at room temperature. Typical yield is about 70%.

reactant | 8-bromo-5-fluoroquinoline | BrC=1C=CC(=C2C=CC=NC12)F | C9H5BrFN
reactant | 1,4-Dioxa-8-azaspiro[4.5]decane | 209 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | 1,1′-binaphthalene | C1(=CC=CC2=CC=CC=C12)C1=CC=CC2=CC=CC=C12 | C20H14
reactant | diphenyl-Phosphine | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
solvent | toluene | 260 g | C1(=CC=CC=C1)C | C7H8
product | 1-(5-fluoroquinolin-8-yl)piperidin-4-one | yield is about 70% | FC1=C2C=CC=NC2=C(C=C1)N1CCC(CC1)=O | C14H13FN2O
